US05110956
2-[{3-(1,3-Benzodioxol-5-yl)propyl}dithio]ethanol
8.4 g of the title compound was prepared from 27.8 g of 3-(1,3-benzodioxol-5-yl)propanethiol and 5.5 g of 2-mercaptoethanol as a colorless oil according to the same procedure as that described in Example 1.

reactant | 3-(1,3-benzodioxol-5-yl)propanethiol | 27.8 g | O1COC2=C1C=CC(=C2)CCCS | C10H12O2S
reactant | 2-mercaptoethanol | 5.5 g | SCCO | C2H6OS
product | 2-[{3-(1,3-Benzodioxol-5-yl)propyl}dithio]ethanol | 8.4 g | O1COC2=C1C=CC(=C2)CCCSSCCO | C12H16O3S2
